US07875645B2
b) 2,6-Dicyclopropyl-benzaldehyde
This compound was prepared using methodology described in Synthesis 1999, 2138-2144. A solution of cyclopropylmagnesium bromide was first prepared by dropwise addition of a solution of 4.06 ml (50.7 mmol) cyclopropyl bromide in 20 ml diethyl ether to 1.23 g (50.7 mmol) magnesium turnings followed by heating at reflux for 5 min. Meanwhile, to a solution of 2.50 g (12.7 mmol) butyl-[1-(2,6-difluoro-phenyl)-meth-(E)-ylidene]-amine in 15 ml ether at 0° C. was added 0.16 g (1.27 mmol) manganese(II) chloride. The freshly prepared solution of cyclopropylmagnesium bromide in diethyl ether was then added dropwise while the temperature of the reaction mixture was maintained at 5-10° C. After the addition was complete, the reaction mixture was stirred for 30 minutes at room temperature and then for 90 minutes at reflux. The reaction mixture was then cooled to room temperature and quenched by dropwise addition of water before being diluted with ethyl acetate. The mixture was then washed with saturated brine. The phases were separated and the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, toluene/heptane gradient) to afford 1.51 g (64%) of the title compound as a yellow oil. MS (EI): 158.1 ([M-CO]+, 100%).157.1 ([M-CHO]+., 25%), 129.2 ([M-CHO—C2H4]+., 90%), 115.1 ([M-CHO—C3H6]+., 43%).

reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | cyclopropyl bromide | 50.7 mmol, 4.06 ml | C1(CC1)Br | C3H5Br
reactant | magnesium | 50.7 mmol, 1.23 g | [Mg] | Mg
reactant | butyl-[1-(2,6-difluoro-phenyl)-meth-(E)-ylidene]-amine | 12.7 mmol, 2.50 g | C(CCC)/N=C/C1=C(C=CC=C1F)F | C11H13F2N
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | ether | 15 ml | CCOCC | C4H10O
catalyst | manganese(II) chloride | 1.27 mmol, 0.16 g | [Cl-].[Mn+2].[Cl-]
product | 2,6-Dicyclopropyl-benzaldehyde | 1.51 g, 64% | C1(CC1)C1=C(C=O)C(=CC=C1)C1CC1 | C13H14O
